US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-6-methyl-2-(2-methyl-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine
The title compound was prepared in analogy to Example 69-1 in Scheme 30 by using 4-(4-chloro-6-methylquinolin-2-yl)-2-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide and 3-(aminomethyl)oxetan-3-amine. MS obsd. (ESI+) [(M+H)+] 453, 1H NMR (400 MHz, CD3OD) δ ppm 8.01 (d, J=7.83 Hz, 1 H), 7.92 (brs, 1 H), 7.66 (s, 2 H), 7.52-7.41 (m, 2 H), 7.30 (dd, J=8.59, 1.77 Hz, 1 H), 6.19 (s, 1 H), 5.18 (brs, 1 H), 5.10 (brs, 1 H), 4.66-4.55 (m, 4 H), 3.68 (d, J=2.02 Hz, 2 H), 3.65-3.57 (m, 1 H), 3.35-3.30 (m, 3 H), 2.43 (s, 3 H), 1.60-1.40 (brs, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2-methyl-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CC(S(C2=C(C1)C=CC=C2)(=O)=O)C | C20H19ClN2O2S
reactant | 3-(aminomethyl)oxetan-3-amine | NCC1(COC1)N | C4H10N2O
product | N-[(3-Aminooxetan-3-yl)methyl]-6-methyl-2-(2-methyl-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-amine | NC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CC(S(C2=C(C1)C=CC=C2)(=O)=O)C | C24H28N4O3S
